US05420275
3-Amino-6-chloro-4,5-diethoxycarbonyl-2-(4-methoxyphenyl)pyridine
In 4 ml of ethanol was dissolved 280 mg of 2-chloro-3,4-diethyoxycarbonyl-6-(4-methoxyphenyl)-5nitropyridine, whereto 340 mg(8.9 eq.) of reduced iron was added. After the mixture was heated to 60° C., 1.5 ml of conc. hydrochloric acid was added dropwise and the mixture was refluxed. After heating for 20 minutes, the solvent was distilled off. The residue was neutralized with an aqueous solution of sodium hydrogencarbonate, followed by extraction with ethyl acetate. After the precipitate was filtered off, the obtained organic layer was washed with water and a saturated aqueous solution of sodium chloride, and dried. Thereafter, the solvent was distilled off.

reactant | 2-chloro-3,4-diethyoxycarbonyl-6-(4-methoxyphenyl)-5nitropyridine | 280 mg | ClC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C1=CC=C(C=C1)OC | C18H17ClN2O7
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-Amino-6-chloro-4,5-diethoxycarbonyl-2-(4-methoxyphenyl)pyridine | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)Cl)C1=CC=C(C=C1)OC | C18H19ClN2O5
